US07745438B2
(2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-butyryloxymethylmorpholine-4-carboxylic acid tert-butyl ester
Dissolve in a round bottom flask charged with argon butyric acid (R)-3-{[(1R,2S,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethylbutyl]-tert-butoxycarbonyl-amino}-2-hydroxy-propyl ester (367 mg, 0.483 mmol) in dry benzene (4.5 mL). Add tributylphosphine (0.180 mL, 0.724 mmol) followed by the addition of tetramethylazodicarboxamide (125 mg, 0.724 mmol). Vigorously stir the resulting slurry overnight. Concentrate and purify (silica gel chromatography, eluting with 15:85 to 20:80 diether ether:hexanes) to give the desired compound as a white foam (302 mg, 84%).

reactant | argon butyric acid (R)-3-{[(1R,2S,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethylbutyl]-tert-butoxycarbonyl-amino}-2-hydroxy-propyl ester | 0.483 mmol, 367 mg | C(C1=CC=CC=C1)O[C@H]([C@@H](CO)N(C[C@H](COC(CCC)=O)O)C(=O)OC(C)(C)C)[C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1.[Ar]
reactant | tributylphosphine | 0.724 mmol, 0.180 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | tetramethylazodicarboxamide | 0.724 mmol, 125 mg | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
solvent | benzene | 4.5 mL | C1=CC=CC=C1 | C6H6
product | (2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-butyryloxymethylmorpholine-4-carboxylic acid tert-butyl ester | 302 mg, 84% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)COC(CCC)=O | C44H52F2N2O6
